### PR TITLE
simplify some proofs

### PR DESCRIPTION
**Pull request by DanGrayson**
I've simplified the proofs of these recent lemmas and made them not
depend any longer on funextemptyAxiom.

 Lemma hzbooleqisi (i : hz) : hzbooleq i (i + 1) = false.
 Lemma hzbooleqissi (i : hz) : hzbooleq i (i + 1 + 1) = false.
 Lemma hzeqpii {i : hz} : i - 1 != i.

### CODE REVIEW

**Comment by mortberg** [comment]
LGTM

File: UniMath/Foundations/NumberSystems/Integers.v [hunk 1]
```diff
@@ -957,22 +957,17 @@ Qed.
...
 Proof.
-  intros i.
-  unfold hzbooleq, decreltobrel. cbn.
-  induction (isdecrelhzeq i (i + 1)) as [e | n].
-  - apply fromempty. apply (ct (hzneq, isdecrelhzneq, 1, 0)).
-    apply (hzpluslcan 1 0 i (! (pathscomp0 (hzplusr0 i) e))).
-  - apply idpath.
+  intros i. apply negrtopaths.
+  apply (negf (λ e, hzpluslcan _ _ _ (! (hzplusr0 i @ e)))); clear i.
+  confirm_not_equal isdecrelhzeq.
```
Comment (mortberg) [inline UniMath/Foundations/NumberSystems/Integers.v]: This seems like a useful tactic, but I can't understand what it is doing by just looking at its definition. Maybe a comment explain what the "confirm_" tactics in Sets.v do could be useful?

File: UniMath/Foundations/Basics/Sets.v [hunk 2]
```diff
@@ -1144,24 +1144,63 @@ Defined.
...
+
+  The tactics [confirm_equal] and [confirm_not_equal] make this strategy concise when the goal is of
+  the form [x = y] or [x != y] and we have a proof [i] that equality is decidable.
+
+  (It would be redundant to also have a proof that inequality is decidable.)
+
+  To evaluate whether having a tactic simplifies things, compare the proofs of [hzbooleqisi] and
+  [hzbooleqisi'] in Integers.v.
+
+ *)
```
Comment (mortberg) [inline UniMath/Foundations/Basics/Sets.v]: Thanks, this is very cool and useful! I think some of my proofs can be simplified using this.

Comment (vladimirias) [inline UniMath/Foundations/Basics/Sets.v]: 1. Instead of "we have a proof of [d : R x +  y ⨿ ¬ R x y]. " it's better to say "we have a proof [d] of [R x +  y ⨿ ¬ R x y].

2. "(It would be redundant to also have a proof that inequality is decidable.)" - what does it mean?

Comment (DanGrayson) [inline UniMath/Foundations/Basics/Sets.v]: I mean that decidability of P is equivalent to decidability of ¬ P, and that only one of the two is ever needed, in practice.
